US08008305B2
6-Phenylamino-N-(3-phenyl-propyl)-nicotinamide
The title compound was prepared in analogy to example 1, but starting from 6-phenylamino-nicotinic acid and using 3-phenyl-propylamine in the third step.

reactant | 6-phenylamino-nicotinic acid | C1(=CC=CC=C1)NC1=NC=C(C(=O)O)C=C1 | C12H10N2O2
reactant | 3-phenyl-propylamine | C1(=CC=CC=C1)CCCN | C9H13N
product | 6-Phenylamino-N-(3-phenyl-propyl)-nicotinamide | C1(=CC=CC=C1)NC1=NC=C(C(=O)NCCCC2=CC=CC=C2)C=C1 | C21H21N3O
